US04812162
A mixture of 4-phenyl-2-nitrotoluene (1.8 g, 8.5 mmol), N,N-dimethylformamide dimethyl acetal (4.4 ml, 33 mmol) and pyrrolidine (0.78 ml, 9.3 mmol) was heated in DMF (20 ml) at 110° C. for 16 hours. The resulting deep red solution was poured into water (100 ml) and extracted with ether (2×100 ml). These extracts were concentrated to give a deep red oil which was dissolved in acetone (5 ml) and then added to a mixture of titanium(III) chloride (40.4 g of a 20% solution in aqueous hydrochloric acid, 52 mmol) and ammonium acetate (80 ml of a 3.9M aqueous solution). The resulting mixture was shaken for 10 minutes and then extracted with ether (3×100 ml). The extracts were washed with brine, dried and concentrated to give a dark solid, which was crystallised from a mixture of petrol (60°-80° C.) and dichloromethane to give 6-phenylindole (1.16 g, 71% yield) as a dark crystalline solid melting at 154° C. (Literature m.p. 160°-1° C., O.Sus et al, Justus Liebigs Ann. Chem., 1955, 593, 91).

reactant | 4-phenyl-2-nitrotoluene | 8.5 mmol, 1.8 g | C1(=CC=CC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H11NO2
reactant | N,N-dimethylformamide dimethyl acetal | 33 mmol, 4.4 ml | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 9.3 mmol, 0.78 ml | N1CCCC1 | C4H9N
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | Cl | ClH
catalyst | titanium(III) chloride | [Cl-].[Ti+3].[Cl-].[Cl-]
solvent | water | 100 ml | O | H2O
product | 6-phenylindole | 1.16 g, 71% yield | C1(=CC=CC=C1)C1=CC=C2C=CNC2=C1 | C14H11N
